US07342115B2
A mixture of [6-(2,6-diethyl-phenyl)-4-ethoxy-2-methyl-pyridin-3-yl]-methanol (1.8 g) and SOCl2 (2 mL) in CH2Cl2 (10 mL) is stirred at room temperature for one hour. The volatile materials are removed in vacuo to give 3-chloromethyl-6-(2,6-diethyl-phenyl)-4-ethoxy-2-methyl-pyridine.

reactant | [6-(2,6-diethyl-phenyl)-4-ethoxy-2-methyl-pyridin-3-yl]-methanol | 1.8 g | C(C)C1=C(C(=CC=C1)CC)C1=CC(=C(C(=N1)C)CO)OCC | C19H25NO2
reactant | SOCl2 | 2 mL | O=S(Cl)Cl | Cl2OS
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | 3-chloromethyl-6-(2,6-diethyl-phenyl)-4-ethoxy-2-methyl-pyridine | ClCC=1C(=NC(=CC1OCC)C1=C(C=CC=C1CC)CC)C | C19H24ClNO
